US09403801B2
Step 7) tert-butyl 4-hydroxy-2-azaspiro[4.4]nonane-2-carboxylate
To a solution of 2-azaspiro[4.4]nonan-4-ol (12.45 g, 88.2 mmol) in THF (150 mL) was added a solution of Na2CO3 (18.70 g, 176.4 mmol) in water (50 mL) and Boc2O (38.49 g, 176.4 mmol). After addition, the reaction mixture was stirred at rt for 4 h and concentrated in vacuo. The residue was diluted with water (100 mL) and the resulting mixture was extracted with EtOAc (250 mL×3). The combined organic phases were washed with brine (250 mL×3), dried over anhydrous Na2SO4, then filtered and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/PE (v/v)=1/5) to give the product as yellow oil (12.07 g, 56.7%).

reactant | 2-azaspiro[4.4]nonan-4-ol | 88.2 mmol, 12.45 g | C1NCC(C12CCCC2)O | C8H15NO
reactant | Na2CO3 | 176.4 mmol, 18.70 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | Boc2O | 176.4 mmol, 38.49 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | water | 50 mL | O | H2O
product | tert-butyl 4-hydroxy-2-azaspiro[4.4]nonane-2-carboxylate | 12.07 g, 56.7% | OC1CN(CC12CCCC2)C(=O)OC(C)(C)C | C13H23NO3
